US09145354B2
6-(4-Methoxy-benzylamino)-nicotinic acid methyl ester (0.6 g, 2.2 mmol) was dissolved in DCM (60 ml) and DMAP (30 mg) was added, followed by Boc2O 2.4 g, 11 mmol). The mixture was stirred at room temperature overnight. Reaction diluted with DCM then washed with sat. bicarbonate then brine The organics were dried (Na2SO4), filtered and concentrated. The residue was purified on Biotage eluting from 0-10% EtOAc/petrol to give 6-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-nicotinic acid methylester (0.68 g). [MH]+ 373

reactant | 6-(4-Methoxy-benzylamino)-nicotinic acid methyl ester | 2.2 mmol, 0.6 g | COC(C1=CN=C(C=C1)NCC1=CC=C(C=C1)OC)=O | C15H16N2O3
reactant | Boc2O | 11 mmol, 2.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-nicotinic acid methylester | 0.68 g | COC(C1=CN=C(C=C1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C20H24N2O5
